US04002755
In the next place, a mixture of 1.0 g of 2-(2-trifluoroacetylhydrazino)-4-phenyl-6-chloroquinazoline thus obtained and 20 g of polyphosphoric acid was heated at 150° C for 2 hours. The mixture was then poured into ice-water and made alkaline with concentrated ammonia water. The resulting crystals were collected by filtration, washed with water, dried and dissolved in chloroform, and purified by chromatography on silica gel using chloroform as an eluent to give 1-trifluoromethyl-5-phenyl-7-chloro-s-triazolo[4,3-a]quinazoline, m.p. 241° - 242° C.

reactant | 2-(2-trifluoroacetylhydrazino)-4-phenyl-6-chloroquinazoline | 1.0 g | FC(C(=O)NNC1=NC2=CC=C(C=C2C(=N1)C1=CC=CC=C1)Cl)(F)F | C16H10ClF3N4O
reactant | ammonia water | O.N
product | 1-trifluoromethyl-5-phenyl-7-chloro-s-triazolo[4,3-a]quinazoline | FC(C1=NN=C2N1C1=CC=C(C=C1C(=N2)C2=CC=CC=C2)Cl)(F)F | C16H8ClF3N4
